US05112829
1,3,4a,5,6,7-Hexahydro-2H-quino[4,3,2-ef][1,4]benzthiazepine-2-one
To a solution of methyl [(9-amino-1,2,3,4-tetrahydroacridin-1-yl)thio]acetate (10.3 g) in tetrahydrofuran (150 ml) was added potassium t-butoxide (4.6 g). The reaction mixture was stirred at ambient temperature for 45 mins and then concentrated. The residue was stirred in water, the solid was collected, and dried. The solid was purified by flash chromatography (ethyl acetate/dichloromethane→5% methanol/dichloromethane) to give 4.1 g (44%) of product, mp 223°-226° C. (dec.). Recrystallization from methanol gave the analytical sample, mp 223.5°-226° C. (dec.).

reactant | methyl [(9-amino-1,2,3,4-tetrahydroacridin-1-yl)thio]acetate | 10.3 g | NC=1C2=CC=CC=C2N=C2CCCC(C12)SCC(=O)OC | C16H18N2O2S
reactant | potassium t-butoxide | 4.6 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1,3,4a,5,6,7-Hexahydro-2H-quino[4,3,2-ef][1,4]benzthiazepine-2-one | 4.1 g, 44% | N1C(CSC2C=3C1=C1C=CC=CC1=NC3CCC2)=O | C15H14N2OS
